US09233946B2
N-[3-(1H-Tetrazol-5-yl)phenyl]benzofuran-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting with 1-benzofuran-2-sulfonyl chloride (11.9 mg, 0.055 mmol) and 5-(3-amino-phenyl)-tetrazole (8 mg, 0.05 mmol) affording 7.8 mg (46%) of the title compound. MS (ESI+) calcd for C15H11N5O3S 341.058260, found 341.058160.

reactant | 1-benzofuran-2-sulfonyl chloride | 0.055 mmol, 11.9 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
reactant | 5-(3-amino-phenyl)-tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | N-[3-(1H-Tetrazol-5-yl)phenyl]benzofuran-2-sulfonamide | 7.8 mg, 46% | N1N=NN=C1C=1C=C(C=CC1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C15H11N5O3S
